US07683056B2
2-[3,5-Bis(trifluoromethyl)phenyl]-N-{4-(4-fluoro-2-methylphenyl)-6-[(7S,9aS)-7-(hydroxymethyl)hexahydropyrazino[2,1-c][1,4]oxazin-8(1H)-yl]-3-pyridinyl}-N,2-dimethylpropanamide Hydrochloride (E35)
To a solution of 2-[3,5-bis(trifluoromethyl)phenyl]-N-{4-(4-fluoro-2-methylphenyl)-6-[(7S,9aS)-7-(hydroxymethyl)hexahydropyrazino[2,1-c][1,4]oxazin-8(1H)-yl]-3-pyridinyl}-N,2-dimethylpropanamide (E34) (300 mg, 0.449 mmol) in 2 mL of diethyl ether was added 0.6 mL of a 1M HCl solution in diethyl ether. A white precipitate formed. The solvent and excess HCl were removed under a stream of nitrogen and the residue was triturated with 1 mL of 1:1 pentane: Et2O. The white solid was collected by filtration and left under high vacuum to give the title compound 280 mg, 0.397 mmol, 88% yield.

reactant | 2-[3,5-bis(trifluoromethyl)phenyl]-N-{4-(4-fluoro-2-methylphenyl)-6-[(7S,9aS)-7-(hydroxymethyl)hexahydropyrazino[2,1-c][1,4]oxazin-8(1H)-yl]-3-pyridinyl}-N,2-dimethylpropanamide | 0.449 mmol, 300 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=C(C=C1)F)C)N1C[C@H]2COCCN2C[C@H]1CO)(C)C)(F)F | C33H35F7N4O3
reactant | HCl | 1M | Cl | ClH
solvent | diethyl ether | 2 mL | C(C)OCC | C4H10O
product | 2-[3,5-Bis(trifluoromethyl)phenyl]-N-{4-(4-fluoro-2-methylphenyl)-6-[(7S,9aS)-7-(hydroxymethyl)hexahydropyrazino[2,1-c][1,4]oxazin-8(1H)-yl]-3-pyridinyl}-N,2-dimethylpropanamide Hydrochloride | 0.397 mmol, 280 mg, 88% yield | Cl.FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=C(C=C1)F)C)N1C[C@H]2COCCN2C[C@H]1CO)(C)C)(F)F | InChI=1S/C33H35F7N4O3.ClH/c1-19-9-23(34)5-6-26(19)27-13-29(44-16-25-18-47-8-7-43(25)15-24(44)17-45)41-14-28(27)42(4)30(46)31(2,3)20-10-21(32(35,36)37)12-22(11-20)33(38,39)40;/h5-6,9-14,24-25,45H,7-8,15-18H2,1-4H3;1H/t24-,25-;/m0./s1
